Semiconductor Resistor Circuit Netlist
**************************************************************
* Tier No.:  1                                                
* Description:   Circuit netlist to test the validity of the 
*                Xyce semiconductor resistor model.
*                The 1K ohm resistor is specified by a length,
*                width, and sheet resistance.
* Input:  VIN=0-5V DC
* Output: Resistance of R1, Current through R1
* Circuit Elements: R1, VMON (zero volt source used to measure
*                   the current through R1)
* Analysis:
*	
*	The circuit consists of a DC voltage source, in parallel 
*	with a semiconductor resistor, which has length and width  
*	defined such that the resistance value is 1K ohm.
*     The Chilespice equation for a semiconductor resistor is:
*
*          	R = RSH*(L-NARROW)/(W-NARROW)
*           where, 
*           RSH=1, L=1000U, W=1U, NARROW=0
*
*     The voltage is swept from 0-5V in 1V increments.  
*	The measured output is the current through the resistor.  
*	The resistance is calculated using Ohm's Law 
*	(Voltage=Current*Resistance, therfore R=I/V).
*
*			V(volts)  |  I(mA)  |  R (kOhm) 
*			  0       |    0	  |     
*			  1       |    1    |     1
*			  2       |    2    |     1
*			  3       |    3    |     1
*			  4       |    4    |     1
*			  5       |    5    |     1
*
*		     	
************************************************************** 
*This works:
R1 2 0 RMOD R=1k
* this should work but doesn't:
*R1 2 0 RMOD 1k
VIN 1 0 5V
VMON 1 2 0V
.DC VIN 0 5V 1V
.MODEL RMOD R (RSH=1)
.PRINT DC V(1) I(VMON)
*The following line is to prevent Xyce from trying to partition this netlist
.END
